US06060508
1.8 g (10.3 mmol) of 2,3-dimethyl-7 -formylbenzofuran, 80 ml of benzene, 4A molecular sieve and 3.19 ml (30.8 mmol) of diethylamine are introduced into a 250 ml three-necked flask equipped with a reflux condenser. The mixture is heated at reflux for 16 hours, cooled to room temperature and then filtered to remove the molecular sieve. The filtrate is concentrated under vacuum and is introduced, with 100 ml of anhydrous tetrahydrofuran, into a 250 ml three-necked flask equipped with a reflux condenser. The solution is cooled to 0° C. by an ice bath and 20 ml of a 3.0 molar solution of methylmagnesium bromide in tetrahydrofuran are added. The reaction mixture is heated at reflux for 26 hours, 8 ml of a 3.0 molar solution of methylmagnesium bromide in tetrahydrofuran are again added and stirring is continued under reflux for 12 hours. The mixture is cooled by an ice bath, 50 ml of a saturated ammonium chloride solution are added and extraction is carried out with ethyl acetate (3×200 ml). The organic phases are combined, dried over magnesium sulphate and concentrated under vacuum. The residue is purified by chromatography on a silica column (elution solvent: 5% methanol in dichloromethane). 0.281 g (Yield: 11%) of 2,3-dimethyl-7-[1-(diethylamino)ethyl]benzofuran is obtained in the form of a colourless oil.

reactant | 2,3-dimethyl-7 -formylbenzofuran | 10.3 mmol, 1.8 g | CC=1OC2=C(C1C)C=CC=C2C=O | C11H10O2
reactant | diethylamine | 30.8 mmol, 3.19 ml | C(C)NCC | C4H11N
reactant | benzene | 80 ml | C1=CC=CC=C1 | C6H6
product | 2,3-dimethyl-7-[1-(diethylamino)ethyl]benzofuran | 0.281 g, Yield: 11% | CC=1OC2=C(C1C)C=CC=C2C(C)N(CC)CC | C16H23NO
